US08865752B2
A mixture of 1-(2-bromobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine (5 mg, 0.1 mmol) and 2N HCl (5 in L) was stirred at Rt for 1 h. The mixture was filtered and evaporated to afford 1-(2-chlorobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine. MS ESI: m/z 349.2 [M+H+].

reactant | 1-(2-bromobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine | 0.1 mmol, 5 mg | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)CC)N2C=NC=C2 | C17H21BrN4S
reactant | HCl | 2N | Cl | ClH
product | 1-(2-chlorobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine | ClC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)CC)N2C=NC=C2 | C17H21ClN4S
